Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O=[C:1]([CH2:2][O:3][C:4]([CH3:5])=[O:6])[CH:7]1[C:8](=O)[CH2:9][C:10]([CH3:11])([CH3:12])[CH2:13][C:14]1=[O:15].[N:16]#[C:17][c:18]1[cH:19][cH:20][c:21]([NH:22][NH2:23])[cH:24][c:25]1[NH:26][CH:27]1[CH2:28][CH2:29][CH:30]([OH:31])[CH2:32][CH2:33]1>>[c:1]1([CH2:2][O:3][C:4]([CH3:5])=[O:6])[c:7]2[c:8]([n:22](-[c:21]3[cH:20][cH:19][c:18]([C:17]#[N:16])[c:25]([NH:26][CH:27]4[CH2:28][CH2:29][CH:30]([OH:31])[CH2:32][CH2:33]4)[cH:24]3)[n:23]1)[CH2:9][C:10]([CH3:11])([CH3:12])[CH2:13][C:14]2=[O:15],[N:16]#[C:17][c:18]1[cH:19][cH:20][c:21]([NH:22][NH2:23])[cH:24][c:25]1[NH:26][CH:27]1[CH2:28][CH2:29][CH:30]([OH:31])[CH2:32][CH2:33]1.[O:101]=[C:1]([CH2:2][O:3][C:4]([CH3:5])=[O:6])[CH:7]1[C:8](=[O:102])[CH2:9][C:10]([CH3:11])([CH3:12])[CH2:13][C:14]1=[O:15].[H+:301].[H+:302]>>[c:1]1([CH2:2][O:3][C:4]([CH3:5])=[O:6])[c:7]2[c:8]([n:22](-[c:21]3[cH:20][cH:19][c:18]([C:17]#[N:16])[c:25]([NH:26][CH:27]4[CH2:28][CH2:29][CH:30]([OH:31])[CH2:32][CH2:33]4)[cH:24]3)[n:23]1)[CH2:9][C:10]([CH3:11])([CH3:12])[CH2:13][C:14]2=[O:15],Knorr_pyrazole_synthesis,"[(22, 8), ([8, 102], 301), (102, 22.1), ([22.1, 22], 22), (22, [22, 8]), ([8, 102], 102), (23, 1), ([1, 101], 302), (101, 23.1), ([23.1, 23], 23), (23, [23, 1]), ([1, 101], 101), ([7.1, 7], [7, 1]), ([1, 23], 23)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([C@@H:2]([NH:3][C:4]([O:5][CH2:6][CH2:7][N:8]1[CH2:9][CH2:10][N:11]([C:12]([O:13][C:14]([CH3:15])([CH3:16])[CH3:17])=[O:18])[CH2:19][CH2:20]1)=[O:21])[CH2:22][c:23]1[cH:24][cH:25][c:26]([O:27][C:28]([CH3:29])([CH3:30])[CH3:31])[cH:32][cH:33]1)=[O:34].[CH3:35][NH:36][CH2:37][c:38]1[cH:39][cH:40][cH:41][cH:42][cH:43]1>>[C:1]([C@@H:2]([NH:3][C:4]([O:5][CH2:6][CH2:7][N:8]1[CH2:9][CH2:10][N:11]([C:12]([O:13][C:14]([CH3:15])([CH3:16])[CH3:17])=[O:18])[CH2:19][CH2:20]1)=[O:21])[CH2:22][c:23]1[cH:24][cH:25][c:26]([O:27][C:28]([CH3:29])([CH3:30])[CH3:31])[cH:32][cH:33]1)(=[O:34])[N:36]([CH3:35])[CH2:37][c:38]1[cH:39][cH:40][cH:41][cH:42][cH:43]1,[OH:101][C:1]([C@@H:2]([NH:3][C:4]([O:5][CH2:6][CH2:7][N:8]1[CH2:9][CH2:10][N:11]([C:12]([O:13][C:14]([CH3:15])([CH3:16])[CH3:17])=[O:18])[CH2:19][CH2:20]1)=[O:21])[CH2:22][c:23]1[cH:24][cH:25][c:26]([O:27][C:28]([CH3:29])([CH3:30])[CH3:31])[cH:32][cH:33]1)=[O:34].[CH3:35][NH:36][CH2:37][c:38]1[cH:39][cH:40][cH:41][cH:42][cH:43]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([C@@H:2]([NH:3][C:4]([O:5][CH2:6][CH2:7][N:8]1[CH2:9][CH2:10][N:11]([C:12]([O:13][C:14]([CH3:15])([CH3:16])[CH3:17])=[O:18])[CH2:19][CH2:20]1)=[O:21])[CH2:22][c:23]1[cH:24][cH:25][c:26]([O:27][C:28]([CH3:29])([CH3:30])[CH3:31])[cH:32][cH:33]1)(=[O:34])[N:36]([CH3:35])[CH2:37][c:38]1[cH:39][cH:40][cH:41][cH:42][cH:43]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (36, 1), ([1, 34], 34), (303, 36.1), ([36.1, 36], 36), (34, [34, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[N:1]1[CH2:2][CH2:3][CH:4]([C@H:5]2[CH2:6][C@@H:7]2[CH2:8][CH2:9][NH:10][c:11]2[n:12][cH:13][c:14](-[n:15]3[cH:16][n:17][n:18][n:19]3)[cH:20][n:21]2)[CH2:22][CH2:23]1>>[NH:1]1[CH2:2][CH2:3][CH:4]([C@H:5]2[CH2:6][C@@H:7]2[CH2:8][CH2:9][NH:10][c:11]2[n:12][cH:13][c:14](-[n:15]3[cH:16][n:17][n:18][n:19]3)[cH:20][n:21]2)[CH2:22][CH2:23]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[N:1]1[CH2:2][CH2:3][CH:4]([C@H:5]2[CH2:6][C@@H:7]2[CH2:8][CH2:9][NH:10][c:11]2[n:12][cH:13][c:14](-[n:15]3[cH:16][n:17][n:18][n:19]3)[cH:20][n:21]2)[CH2:22][CH2:23]1.[H+:301]>>[NH:1]1[CH2:2][CH2:3][CH:4]([C@H:5]2[CH2:6][C@@H:7]2[CH2:8][CH2:9][NH:10][c:11]2[n:12][cH:13][c:14](-[n:15]3[cH:16][n:17][n:18][n:19]3)[cH:20][n:21]2)[CH2:22][CH2:23]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
